US04002647
1-bromo-3,7-dimethyl-2,6-nonadiene and 6-hydroxy-2-methyl-2,3-dihydrobenzofuran are reacted to form 6-[(3,7-dimethyl-2,6-nonadienyl)- oxy]-2-methyl-2,3-dihydrobenzofuran of boiling point ca. 145° C./0.001 mmHg; nD20 = 1.5286;

reactant | 1-bromo-3,7-dimethyl-2,6-nonadiene | BrCC=C(CCC=C(CC)C)C | C11H19Br
reactant | 6-hydroxy-2-methyl-2,3-dihydrobenzofuran | OC1=CC2=C(CC(O2)C)C=C1 | C9H10O2
product | 6-[(3,7-dimethyl-2,6-nonadienyl)- oxy]-2-methyl-2,3-dihydrobenzofuran | CC(=CCOC1=CC2=C(CC(O2)C)C=C1)CCC=C(CC)C | C20H28O2
